### PR TITLE
feat(Powerseries): if `P.subst Q = X`, then ` Q.subst P = X`

### PR DESCRIPTION
**Pull request by yuanyi-350**
used in #37848

This adds a small helper for compositional inverses of power series.

If `P.constantCoeff = 0`, `coeff 1 P` is a unit, and `P.subst Q = X`, then `Q.subst P = X`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 1]
```diff
@@ -585,6 +585,16 @@ lemma subst_substInvOfIsUnit_left : (P.substInvOfIsUnit hP').subst P = X := by
...
 
+include hP hP' in
+lemma subst_eq_X_of_subst_eq_X {Q : R⟦X⟧} (hQ : HasSubst Q) (hPQ : P.subst Q = X) :
+    Q.subst P = X := by
+  have hQI : Q = P.substInvOfIsUnit hP' := calc
+    _ = PowerSeries.subst Q X := (subst_X hQ).symm
+    _ = _ := by
+      rw [← P.subst_substInvOfIsUnit_left hP hP',
+        subst_comp_subst_apply (HasSubst.of_constantCoeff_zero' hP) hQ _, hPQ, X_subst _]
+  rw [hQI, P.subst_substInvOfIsUnit_left hP hP']
```
Comment (BoltonBailey) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean]: Perhaps the `have` could be split off to its own lemma?
```
include hP hP' in
lemma eq_substInvOfIsUnit_of_subst_eq_X {Q : R⟦X⟧} (hQ : HasSubst Q) (hPQ : P.subst Q = X) :
    Q = P.substInvOfIsUnit hP' := calc
  _ = PowerSeries.subst Q X := (subst_X hQ).symm
  _ = _ := by
    rw [← P.subst_substInvOfIsUnit_left hP hP',
      subst_comp_subst_apply (HasSubst.of_constantCoeff_zero' hP) hQ _, hPQ, X_subst _]

include hP hP' in
lemma subst_eq_X_of_subst_eq_X {Q : R⟦X⟧} (hQ : HasSubst Q) (hPQ : P.subst Q = X) :
    Q.subst P = X := by
  rw [P.eq_substInvOfIsUnit_of_subst_eq_X hP hP' hQ hPQ, P.subst_substInvOfIsUnit_left hP hP']
```

**Review by BoltonBailey — APPROVED** [review]

**Comment by grunweg** [comment]
I'm not a good reviewer for PRs in this area. Is @mariainesdff perhaps a better reviewer?
